US04889855
b. 5-Carbamoyl-7,8,9,10-tetrahydro-2,3-dihydroxybenzo(f)quinoxaline
A solution of 7-cyano-1,2,3,4-tetrahydro-5,6-dinitro-naphthalene (0.18 g, 0.73 mmol) in ethanol was hydrogenated at room temperature and atmospheric pressure in the presence of 100 mg of 5% palladium-on-charcoal. The catalyst was filtered off, and the filtrate was evaporated to dryness. The solid residue was suspended in 10 ml of 1M hydrochloric acid, oxalic acid dihydrate (0.15 g, 1.2 mmol) was added, and the mixture was refluxed for 3 h. After cooling, the solid was collected and washed with water, ethanol and ether affording 80 mg (42%) of the amide.

reactant | 7-cyano-1,2,3,4-tetrahydro-5,6-dinitro-naphthalene | 0.73 mmol, 0.18 g | C(#N)C1=C(C(=C2CCCCC2=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H9N3O4
reactant | oxalic acid dihydrate | 1.2 mmol, 0.15 g | O.O.C(C(=O)O)(=O)O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 5-Carbamoyl-7,8,9,10-tetrahydro-2,3-dihydroxybenzo(f)quinoxaline | C(N)(=O)C1=CC2=C(C=3N=C(C(=NC13)O)O)CCCC2 | C13H13N3O3
